US04125615
2-[4-(p-Nitrobenzyl)-1-piperazinyl]-8-ethyl-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid:-
A mixture of 2.0 g of 2-(1-piperazinyl)-8-ethyl-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid, 1.34 g of triethylamine, 2.14 g of p-nitrobenzyl bromide, and 50 ml of dimethylformamide was heated at 90° C. for 14 hours with stirring and concentrated to dryness under reduced pressure. Addition of 50 ml of water to the residue resulted in the separation of a solid, which was collected and recrystallized from dimethylformamide to give the product (2.02 g), m.p. 259°-261° C.

reactant | 2-(1-piperazinyl)-8-ethyl-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 2.0 g | N1(CCNCC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C14H17N5O3
reactant | triethylamine | 1.34 g | C(C)N(CC)CC | C6H15N
reactant | p-nitrobenzyl bromide | 2.14 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-[4-(p-Nitrobenzyl)-1-piperazinyl]-8-ethyl-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 2.02 g | [N+](=O)([O-])C1=CC=C(CN2CCN(CC2)C=2N=CC3=C(N2)N(C=C(C3=O)C(=O)O)CC)C=C1 | C21H22N6O5
